US08809382B2
Step 1: 3-(S)-Methyl-pentanedioic acid methyl ester 2-trimethylsilanyl-ethyl ester
To the solution of 3-(R)-Methyl-pentanedioic acid monomethyl ester in methylene chloride was added 2-Trimethylsilanyl-ethanol followed by DCC and DMAP and was stirred for 30 minutes. The reaction mixture was treated with sodium bicarbonate and methylene chloride. The product was purified by column chromatography.

reactant | 3-(R)-Methyl-pentanedioic acid monomethyl ester | COC(C[C@@H](CC(=O)O)C)=O | C7H12O4
reactant | 2-Trimethylsilanyl-ethanol | C[Si](CCO)(C)C | C5H14OSi
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(S)-Methyl-pentanedioic acid methyl ester 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C[C@H](CC(=O)OC)C)=O)(C)C | C12H24O4Si
